* SMCNR_SE_2st_AMP -- AnalogGym two-stage amplifier on TSMC7 BSIM-CMG (LEVEL=72)
* Connectivity and the 1:2:10 mirror ratios are the shipped ones; geometry is re-designed for 0.75 V FinFET.
.subckt SMCNR_SE_2st_AMP vdda gnda vin vip vout
Nm1 outp outp gnda gnda nsvt_l240_f2 m=2   $ n_mirror
Nm3 outn outp gnda gnda nsvt_l240_f2 m=2   $ n_mirror
Nm7 ibias ibias vdda vdda psvt_l240_f2 m=2   $ p_bias 1x
Nm6 net53 ibias vdda vdda psvt_l240_f2 m=4   $ p_bias 2x
Nm5 vout ibias vdda vdda psvt_l240_f2 m=20   $ p_bias 10x
Nm2 outn vip net53 vdda plvt_l240_f4 m=4   $ p_in
Nm0 outp vin net53 vdda plvt_l240_f4 m=4   $ p_in
Nm4 vout outn gnda gnda nsvt_l240_f2 m=20   $ n_mirror 10x
ibias0 ibias 0 2e-07
r0 net027 vout 100000
c0 outn net027 2e-12
.ends SMCNR_SE_2st_AMP
